US06515011B2
To a stirred solution of L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (0.030 g, 0.082 mmol), 3,3-diphenylpropanoic acid (20 mg, 0.090 mmol), and HOBT hydrate (13 mg, 0.098 mmol) in DMF (1 mL) was added EDC (0.023 g, 0.122 mmol). Diisopropylethylamine (0.0142 mL, 0.082 mmol) was added and the mixture was stirred at ambient temperature for 3 hours, at which time HPLC analysis indicated complete consumption of the proline starting material. The DMF was removed under reduced pressure and the residue was partitioned between EtOAc (50 mL) and 1N HCl. The EtOAc layer was separated, washed with water, 10% aqueous Na2CO3 and brine, dried over anhydrous MgSO4, and filtered. The filtrate solvent was removed under reduced pressure and the residue was purified by chromatography on a 10 g ISCO column using 10-100% EtOAc/hexanes over 40 min. The product-containing fractions were combined and the solvents were removed under reduced pressure to give N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-1-(3,3-diphenylpropanoyl)-L-prolinamide as an oil (0.050 g, 99%). HPLC RT=2.9 min, Method B; LC-MS M+H=576, 578.

reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 0.082 mmol, 0.030 g | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | 3,3-diphenylpropanoic acid | 0.090 mmol, 20 mg | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | HOBT hydrate | 0.098 mmol, 13 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 0.122 mmol, 0.023 g
reactant | Diisopropylethylamine | 0.082 mmol, 0.0142 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-1-(3,3-diphenylpropanoyl)-L-prolinamide | 0.050 g, 99% | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2N(CCC2)C(CC(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)C=C(C=C1)Cl | C33H38ClN3O4
